US07557133B2
Thus obtained bromomethyl ketone derivative (X, 4.36 g) and 2,6-dichlorobenzoic acid (2.28 g, 1.1 Eq) were dissolved in dimethylformamide (18 ml), KF (1.58 g, 2.5 Eq) was added, and the mixture was stirred for two hours to give 2,6-dichlorobenzoyloxymethyl ketone derivative (XIa). This compound was dissolved in methanol (20 ml) and reacted by adding NaBH4 (412 mg)-methanol solution (40 ml)(−10□˜room temperature, two hours). The reaction was stopped by acetic acid, and the reaction solution was distilled under reduced pressure to remove methanol. The residue was extracted with ethyl acetate (50 ml×2), washed with water and aqueous sodium chloride solution, dried (anhydrous Na2SO4), concentrated under reduced pressure, and separated-purified by column chromatography (ethyl acetate-hexane, 1:5) to give the title compound (4.80 g, Yield 86%) in a diastereomeric form.

reactant | bromomethyl ketone | 4.36 g | BrCC(=O)CBr | C3H4Br2O
reactant | 2,6-dichlorobenzoic acid | 2.28 g, 1.1 Eq | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | KF | 1.58 g, 2.5 Eq | [F-].[K+]
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 2,6-dichlorobenzoyloxymethyl ketone | ClC1=C(C(=O)OCC(=O)COC(C2=C(C=CC=C2Cl)Cl)=O)C(=CC=C1)Cl | C17H10Cl4O5
